US03987199
C. 4-amino-3-nitrobenzenesulfonamide
7.5 G. of 4-acetylamino-3-nitrobenzenesulfonamide is dissolved in 60 ml. of 6N hydrochloric acid and refluxed for 2 hours. The reaction mixture is cooled, filtered, and the solid material washed with water and dried. The dried 4-amino-3-nitrobenzenesulfonamide has a m.p. of 280°-210° C. and is of sufficient purity for use in the next step.

reactant | 4-acetylamino-3-nitrobenzenesulfonamide | C(C)(=O)NC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C8H9N3O5S
reactant | hydrochloric acid | 6N | Cl | ClH
product | 4-amino-3-nitrobenzenesulfonamide | NC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H7N3O4S
